US05932567
(f) 4-Phthalimidomethyl-3-methoxybenzonitrile
24.4 g (108 mol [sic]) of 4-bromomethyl-3-methoxybenzonitrile, dissolved in 125 ml of DMF, and 20.0 g of potassium phthalimide were stirred at room temperature for 24 h and then at 50° C. for 1 h. The mixture was poured into water, whereupon the product precipitated as solid. 21.5 g (68%) were obtained. 1H-NMR (DMSO-d6 ; δ in ppm): 7.9 (m, 4H); 7.5 (d, 1H); 7.35-7.25 (m, 2H); 7.78 (s, 2H); 3.92 (s, 3H)

reactant | 4-bromomethyl-3-methoxybenzonitrile | 108 mol, 24.4 g | BrCC1=C(C=C(C#N)C=C1)OC | C9H8BrNO
reactant | potassium phthalimide | 20.0 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | water | O | H2O
solvent | DMF | 125 ml | CN(C)C=O | C3H7NO
product | 4-Phthalimidomethyl-3-methoxybenzonitrile | C1(C=2C(C(N1CC1=C(C=C(C#N)C=C1)OC)=O)=CC=CC2)=O | C17H12N2O3
